Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Amoxicillin / Bactrim / ?peels of fruit  vs full fruit / cold 
temperatures
 
Attending: ___.
 
Chief Complaint:
Stress urinary incontinence
 
Major Surgical or Invasive Procedure:
Transient obturator tension-free vaginal tape

 
History of Present Illness:
The patient is a ___ of ___ who presented to the ___ 
___ with persistent symptoms consistent with classic stress 
urinary incontinence.
Urodynamics and cystoscopy performed in clinic revealed a stable 
detrusor with normal compliance; however, leak associated with 
coughing, sneezing, and straining.  As a result risk and 
benefits of the procedure were discussed
including the newest law suits associated with vaginal mesh use; 
and despite this, and understanding the risk of erosion as well 
as perineal and vaginal pain and dyspareunia, etc., the patient 
wished to proceed.

 
Past Medical History:
Anxiety
HTN
BPPV
h/o R sciatica
asthma
PMH:  
Heart dysrhythmia s/p ___  
Asthma  
OSA  
Hypothyroid  
Kidney stones  
Breast cancer s/p R breast lumpectomy + XRT  
PSH:  
Cholecystectomy  
R breast lumpectomy  
___ placement  

 
Social History:
___
Family History:
father has CAD; no h/o arrhythmias
 
Physical Exam:
WDWN female, NAD, AVSS
abdomen benign
extremities w/out edema
 
Pertinent Results:
None for this admission
 
Brief Hospital Course:
Ms. ___ was admitted to Dr. ___ service 
after undergoing  a procedure (Transient obturator tension-free 
vaginal tape) for Stress urinary incontinence.  There were no 
intraoperative complications described but please refer to the 
detailed dictated operative note. Ms. ___ was 
transferred from the PACU to the general surgical floor where 
she remained overnight for observation and for early morning 
Foley removal and vaginal packing removal. Her hospital course 
was unremarkable and she was discharged home on POD1 with pain 
well controlled on oral analgesics, tolerating a regular diet 
and voiding without difficulty. She was advised to f/u with Dr. 
___.
 
Medications on Admission:
Meds:  
Arimidex 1mg PO QAM  
Lisinopril 10mg PO QAM  
Levothyroxine 50mcg PO QAM  
Aspirin 81mg PO QAM  
Bone strength supplement  

Allergies:  
Amoxicillin / Bactrim / ?peels of fruit vs full fruit / cold 
temperatures  
 

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain, fever.  
2. anastrozole 1 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
3. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. hydrocodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
6. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
7. Supplements
You may resume your OTC supplements
8. aspirin, buffered 81 mg Tablet Sig: One (1) Tablet PO once a 
day: You may resume one week after surgery unless otherwise 
advised.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 Stress urinary incontinence.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume all of your pre-admission medications, except HOLD 
aspirin until you see your urologist in follow-up 

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery. 
 
Followup Instructions:
___